US08071602B2
Step 1: 2-[(2-Hydroxy-ethyl)-(2-phenoxy-ethyl)-amino]ethanol (H)
The reaction mixture of 2-(2-hydroxy-ethylamino)ethanol (32 g, 310 mmol), 1-(2-bromoethoxy)benzene (51 g, 256 mmol), and potassium carbonate (70 g, 512 mmol) in ethanol (200 mL) was refluxed overnight, concentrated, and partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by column chromatography to afford the title compound (45 g, 78%).

reactant | 2-(2-hydroxy-ethylamino)ethanol | 310 mmol, 32 g | OCCNCCO | C4H11NO2
reactant | 1-(2-bromoethoxy)benzene | 256 mmol, 51 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | potassium carbonate | 512 mmol, 70 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-[(2-Hydroxy-ethyl)-(2-phenoxy-ethyl)-amino]ethanol | 45 g, 78% | OCCN(CCO)CCOC1=CC=CC=C1 | C12H19NO3
